US06001331
[4-(Dimethylamino)phenylazo]benzothiazole
An ice-cold solution of sodium nitrite (1.65 g, 23.9 mmol) in water (15 mL) was added slowly (via syringe) to a stirring mixture at 0° C. of 2-aminobenzothiazole (3.78 g, 25.2 mmol) in water (50 mL) and concentrated sulfuric acid (7.0 mL, 126.7 mmol). During addition, the temperature was kept below 5° C. The resultant orange mixture was stirred at 0° C. for 15 minutes, then N,N-dimethylaniline was added dropwise causing the mixture to turn dark brown-black. The mixture was stirred at 0° C. for 15 minutes, an aqueous solution of sodium acetate (4.32 g in 20 mL of water) was added dropwise, stirred for 1 hour, basified with 25% sodium hydroxide solution to a pH ~12 and allowed to warm to room temperature. The mixture was filtered, the solid was washed with cold water, recrystallized from methanol, then chromatographed (silica gel, 2% methanol in methylene chloride) to give the title compound as a green solid, mp 243-246° C.

reactant | sodium nitrite | 23.9 mmol, 1.65 g | N(=O)[O-].[Na+]
reactant | 2-aminobenzothiazole | 25.2 mmol, 3.78 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sulfuric acid | 126.7 mmol, 7.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium acetate | 20 mL, 4.32 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | [4-(Dimethylamino)phenylazo]benzothiazole | CN(C1=CC=C(C=C1)N=NC=1SC2=C(N1)C=CC=C2)C | C15H14N4S
